US06087380
2-[N-(4-amidinophenyl)-aminomethyl]benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-dihydrochloride
Prepared analogously to Example 9 from 2-[N-(4-cyanophenyl)-aminomethyl]benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide, methanolic hydrochloric acid, methanol and ammonium carbonate. Yield: 68% of theory, C25H24N6O3S (488.57) Rf value: 0.13 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) EKA mass spectrum: (M+H)+ =489

reactant | 2-[N-(4-cyanophenyl)-aminomethyl]benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C#N)C1)CCC(=O)OC | C25H21N5O3S
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[N-(4-amidinophenyl)-aminomethyl]benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-dihydrochloride | Yield: 68% | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OC | InChI=1S/C25H24N6O3S.2ClH/c1-34-23(32)11-13-31(21-4-2-3-12-28-21)25(33)17-7-10-20-19(14-17)30-22(35-20)15-29-18-8-5-16(6-9-18)24(26)27;;/h2-10,12,14,29H,11,13,15H2,1H3,(H3,26,27);2*1H
